US04521510
8-(3-carboxypropyl)-theophylline was synthesized as described in copending patent application Ser. No. 315,922, filed Oct. 28, 1981. 15 mg of this compound was reacted with 7 mg of N-hydroxysuccinimide in 2.0 ml of dimethylformamide at 4° C. for 18 hours. At the end of this time, 200 mg of KLH, dissolved in 15 mL of 0.1 M sodium carbonate, pH 8.5, was added. The reaction mixture was stirred for 18 hours at 4° C. Unreacted theophylline was removed by dialysis.

reactant | N-hydroxysuccinimide | 7 mg | ON1C(CCC1=O)=O | C4H5NO3
reactant | theophylline | N1(C)C(=O)N(C)C=2N=CNC2C1=O | C7H8N4O2
reactant | dimethylformamide | 2.0 ml | CN(C=O)C | C3H7NO
solvent | sodium carbonate | 0.1 M, 15 mL | C([O-])([O-])=O.[Na+].[Na+]
product | 8-(3-carboxypropyl)-theophylline | C(=O)(O)CCCC1=NC=2N(C(N(C)C(C2N1)=O)=O)C | C11H14N4O4
